US06528525B1
2-Butyl-3-[4-[2-(3′-dimethylaminomethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-215 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(3′-dimethylaminomethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (263 mg), which is the product of Example 38, was reacted with aqueous sodium hydroxide solution (1N, 1.00 ml) and the reaction mixture was treated to give the title compound (121 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(3′-dimethylaminomethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 263 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C)C | C33H42N2O4
reactant | sodium hydroxide | 1N, 1.00 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(3′-dimethylaminomethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 121 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C)C | C31H38N2O4
